US07179823B1
To a mixture of 1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxy]-1H-pyrazol-4-carbaldehyde (25.20 g), ethyl diethylphosphonoacetate (9.50 g), and N,N-dimethylformamide (200 ml), sodium hydride (60%, oily, 1.68 g) was added at 0° C., and the mixture was stirred at room temperature for 2 hours. The reaction mixture was added to ice water, and the obtained crystals were collected by filtration, and ethyl(E)-3-[1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxy]-1H-pyrazol-4-yl]propenoate (25.58 g, yield: 92%) was obtained. This was recrystallized from tetrahydrofuran-hexane. Melting point: 148–149° C.

reactant | 1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxy]-1H-pyrazol-4-carbaldehyde | 25.20 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CN2N=C(C(=C2)C=O)OCC2=CC=C(C=C2)OCC=2N=C(OC2C)C2=CC=CC=C2)C=C1 | C40H34N4O6
reactant | ethyl diethylphosphonoacetate | 9.50 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | sodium hydride | 1.68 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | ethyl(E)-3-[1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-3-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxy]-1H-pyrazol-4-yl]propenoate | 25.58 g, yield: 92% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CN2N=C(C(=C2)/C=C/C(=O)OCC)OCC2=CC=C(C=C2)OCC=2N=C(OC2C)C2=CC=CC=C2)C=C1 | C44H40N4O7
